### PR TITLE
[Merged by Bors] - feat(Topology/InfiniteSum): non-negativity of tprod

### PR DESCRIPTION
**Pull request by wwylele**
---

A surprisingly missing lemma. Hopefully I didn't miss anything

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean [hunk 1]
```diff
@@ -234,6 +234,17 @@ protected theorem Multipliable.one_lt_tprod [L.LeAtTop] [L.NeBot] (hsum : Multip
 
 end OrderedCommGroup
 
+section WithZero
+
+theorem tprod_nonneg [CommMonoidWithZero α] [TopologicalSpace α] [Preorder α] [ZeroLEOneClass α]
+    [PosMulMono α] [ClosedIciTopology α] [L.NeBot] {f : ι → α} (hf : ∀ i, 0 ≤ f i) :
+    0 ≤ ∏'[L] x, f x := by
+  by_cases h : Multipliable f L
+  · exact ge_of_tendsto' h.hasProd fun s ↦ s.prod_nonneg fun i _ ↦ hf i
```
Comment (CoolRmal) [inline Mathlib/Topology/Algebra/InfiniteSum/Order.lean]: It seems like that at this step you can use `by_cases : L.NeBot` to remove the typeclass `L.NeBot` (and to do this, you probably need to generalize the typeclasses used in [finprod_nonneg](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Finprod.html#finprod_nonneg) first)

Comment (CoolRmal) [reply Mathlib/Topology/Algebra/InfiniteSum/Order.lean]: and maybe you can provide a HasProd version of this lemma (as this seems to be the convention in this file)

**Comment by CoolRmal** [comment]
maintainer merge

**Review by j-loreaux — COMMENTED** [review]
bors merge
